US07741326B2
2-Bromo-4-methylphenol (10.11 gm, 54.05 mmol) was mixed with concentrated ammonium hydroxide (50 ml) and methanol (20 ml). Potassium iodide (17.94 g, 108 mmol), iodine (13.72 g, 54.05 mmol) and water (60 ml) were mixed to give a dark brown solution which was added in portions to the phenol solution. Additional methanol (200 ml) was added in portions as precipitating product made the mixture too viscous to stir. When all the iodine solution had been added the mixture was heated to 60° C. till the brown color faded. The mixture was cooled, filtered and the solid rinsed three times with water. The solid was dissolved in dichloromethane, dried over magnesium sulfate, filtered and stripped to give 2-Bromo-4-methyl-6-iodophenol as an oil that crystallized on standing. The filtrate and water rinses were concentrated and extracted twice with ethyl acetate, dried over magnesium sulfate, filtered and stripped to give additional 2-bromo-4-methyl-6-iodophenol for a total of 16.24 g, 96% yield.

reactant | 2-Bromo-4-methylphenol | 54.05 mmol, 10.11 gm | BrC1=C(C=CC(=C1)C)O | C7H7BrO
reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
reactant | Potassium iodide | 108 mmol, 17.94 g | [I-].[K+]
reactant | iodine | 54.05 mmol, 13.72 g | II | I2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 2-Bromo-4-methyl-6-iodophenol | BrC1=C(C(=CC(=C1)C)I)O | C7H6BrIO
